US06090813
4-Bromobenzenesulphonyl chloride (1.50 g) in dichloromethane (50 ml) was added slowly to a solution of homopiperazine (3.0 g) in dichloromethane (100 ml). The reaction was stirred at room temperature for 18 hrs. The reaction mixture was washed with water (40 ml) and brine (50 ml), dried (MgSO4) and solvent removed in vacuo. The product was recrystallised from dichloromethane/hexane to give 1-(4-bromophenylsulphonyl) 1,4-diazepine a white solid (650 mg), mp 95-97° C.;

reactant | 4-Bromobenzenesulphonyl chloride | 1.50 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | homopiperazine | 3.0 g | N1CCNCCC1 | C5H12N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(4-bromophenylsulphonyl) 1,4-diazepine | BrC1=CC=C(C=C1)S(=O)(=O)N1C=CN=CC=C1 | C11H9BrN2O2S
